US09428502B2
Compound 232.1. Ethyl 4-oxobutanoate
Into a 500-mL round-bottom flask, which was purged and maintained with an inert atmosphere of nitrogen, was placed a solution of ethyl 4-chloro-4-oxobutanoate (12 g, 72.91 mmol) in tetrahydrofuran (200 mL). The system was purged with nitrogen and palladium on carbon (2 g) was added to the reaction. This was followed by the addition of triethylsilane (16.5 mL, 103.20 mmol) dropwise with stirring at room temperature. The reaction mixture was stirred for 2 h at room temperature. The solids were filtered off and the filtrate was concentrated under reduced pressure to give 18 g (crude) of the title compound as a light yellow solid.

reactant | ethyl 4-chloro-4-oxobutanoate | 72.91 mmol, 12 g | ClC(CCC(=O)OCC)=O | C6H9ClO3
reactant | triethylsilane | 103.20 mmol, 16.5 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | Ethyl 4-oxobutanoate | O=CCCC(=O)OCC | C6H10O3
